US05192789
To a stirred solution of 4-methyl-3-(2-propynyl)imino-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol (3.4 g) in CH2Cl2 (15.0 ml) was added 1,8-diazabicyclo[5.4.0]undec-7-ene (326 mg) followed by the dropwise addition of methyl isocyanate (0.8 g) in CH2Cl2 (5.0 ml). The reaction was monitored via TLC and after 1.0 hour, the solution was concentrated and the crude product was purified via flash chromatography eluting with hexane/acetone (2:1). The product which precipitated out of the pure fractions was collected to give 4-methyl-3-(2-propynyl)imino-1,2,3,4-tetrahydrocyclopent[b]indol-7-yl methylcarbamate (1.2 grams) and the fractions were concentrated to give an additional 0.9 gram.

reactant | 4-methyl-3-(2-propynyl)imino-1,2,3,4-tetrahydrocyclopent[b]indol-7-ol | 3.4 g | CN1C2=C(C=3C=C(C=CC13)O)CCC2=NCC#C | C15H14N2O
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 326 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | methyl isocyanate | 0.8 g | CN=C=O | C2H3NO
solvent | CH2Cl2 | 15.0 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5.0 ml | C(Cl)Cl | CH2Cl2
product | 4-methyl-3-(2-propynyl)imino-1,2,3,4-tetrahydrocyclopent[b]indol-7-yl methylcarbamate | 1.2 grams | CNC(OC1=CC=2C3=C(N(C2C=C1)C)C(CC3)=NCC#C)=O | C17H17N3O2
